US07732460B2
(g) Butyl 3-(1-{[4-(methyloxy)phenyl]methyl}-3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)propanoate
A solution of butyl (2E)-3-[1-{[4-(methyloxy)phenyl]methyl}-3-({[4-(methyloxy)phenyl]methyl}oxy)-6-oxo-1,6-dihydro-4-pyridazinyl]-2-propenoate (580 mg) in ethanol (15 ml)/1,4-dioxane (5 ml) was treated with 10% Pd/C (400 mg) and stirred under hydrogen at atmospheric pressure and room temperature for 2 hours. The catalyst was filtered off using kieselguhr and the filtrate evaporated and redissolved in 1,4-dioxane and the solution evaporated to dryness to give the product (0.43 g, 98%).

reactant | butyl (2E)-3-[1-{[4-(methyloxy)phenyl]methyl}-3-({[4-(methyloxy)phenyl]methyl}oxy)-6-oxo-1,6-dihydro-4-pyridazinyl]-2-propenoate | 580 mg | COC1=CC=C(C=C1)CN1N=C(C(=CC1=O)/C=C/C(=O)OCCCC)OCC1=CC=C(C=C1)OC | C27H30N2O6
reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | Butyl 3-(1-{[4-(methyloxy)phenyl]methyl}-3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)propanoate | 0.43 g, 98% | COC1=CC=C(C=C1)CN1NC(C(=CC1=O)CCC(=O)OCCCC)=O | C19H24N2O5
